US08729074B2
N′-(2-Chloro-5-(7-(4-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide
N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide. To a 100 mL round bottom flask was added N-(5-bromo-2-chloropyridin-3-yl)dimethylaminosulfonamide (0.220 g, 0.699 mmol), Bis(pinacolato)diboron (0.266 g, 1.049 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) (0.051 g, 0.070 mmol), potassium acetate (0.069 g, 0.699 mmol) and dioxane (20 mL). The resulting mixture was heated at 95° C. under N2 for 4 h. The reaction mixture was removed from the hot plate followed by the addition of 7-bromo-3-iodoimidazo[1,2-a]pyridine (0.226 g, 0.699 mmol), sodium carbonate (0.874 mL, 1.748 mmol), and 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) (0.051 g, 0.070 mmol). The resulting mixture was then reheated at 95° C. under N2 for 20 h. The reaction was cooled to rt. The solvent was removed. The residue was partitioned between pH 7-buffer (1M TRIS-HCL) and CHCl3. The organic layer was dried over MgSO4 and concentrated. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 40 g SiO2, DCM:EtOAc:MeOH (2M NH3)=80%:17%:3%, Flow=40 mL/min) to afford the desired product as brown foam-like solid (50.0 mg). MS (ESI pos. ion) m/z: 429.8. Calcd exact mass for C14H13BrClN5O2S: 428.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.91 (s, 6H) 6.88 (br. s., 1H) 7.04 (d, J=7.89 Hz, 1H) 7.78 (s, 1H) 7.93 (s, 1H) 8.08 (s, 1H) 8.16 (d, J=7.16 Hz, 1H) 8.34 (s, 1H).

reactant | N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide | BrC1=CC=2N(C=C1)C(=CN2)C=2C=C(C(=NC2)Cl)NS(=O)(=O)N(C)C | C14H13BrClN5O2S
reactant | N-(5-bromo-2-chloropyridin-3-yl)dimethylaminosulfonamide | 0.699 mmol, 0.220 g | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)N(C)C | C7H9BrClN3O2S
reactant | Bis(pinacolato)diboron | 1.049 mmol, 0.266 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.699 mmol, 0.069 g | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-iodoimidazo[1,2-a]pyridine | 0.699 mmol, 0.226 g | BrC1=CC=2N(C=C1)C(=CN2)I | C7H4BrIN2
reactant | sodium carbonate | 1.748 mmol, 0.874 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N′-(2-Chloro-5-(7-(4-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide | ClC1=NC=C(C=C1NS(=O)(=O)N(C)C)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2 | C19H17ClN6O2S
